US04851526
3-(Dipropylamino)-N-[(4-1H-imidazol-1-yl)phenyl]-N-(2-propenyl)propanamide
In a manner similar to Preparation 4, react dipropylamine with 3-chloro-N-[4-(1H-imidazol-yl)phenyl]-N-(2-propenyl)propanamide to obtain the title compound.

reactant | dipropylamine | C(CC)NCCC | C6H15N
reactant | 3-chloro-N-[4-(1H-imidazol-yl)phenyl]-N-(2-propenyl)propanamide | ClCCC(=O)N(CC=C)C1=CC=C(C=C1)N1C=NC=C1 | C15H16ClN3O
product | 3-(Dipropylamino)-N-[(4-1H-imidazol-1-yl)phenyl]-N-(2-propenyl)propanamide | C(CC)N(CCC(=O)N(CC=C)C1=CC=C(C=C1)N1C=NC=C1)CCC | C21H30N4O
